US04931581
Preparation of 3,5-dinitro-2-isopropylthiobenzoic acid methyl ester
33.2 g (0.240 mol) of potassium carbonate are introduced into 100 ml of dimethylformamide and cooled to -5° C. 37.5 g (0.114 mol) of 2-chloro-3,5-dinitrobenzoic acid (75% with 25% water) in 110 ml of dimethylformamide are then added over a period of 20 minutes, during which time the internal temperature is maintained at from -7° to -3° C. 11.0 ml (0.114 mol) of isopropyl mercaptan (97%) in 20 ml of dimethylformamide are then added dropwise at from -8° to -1° C. over a period of 45 minutes. The batch is then stirred for one hour at 0° C. and the temperature is then raised to 25° C. over a period of 24 hours. 7.5 ml (0.12 mol) of methyl iodide are then added dropwise at room temperature over a period of 30 minutes. The reaction mixture is subsequently stirred for 16 hours at room temperature and then poured onto 500 ml of ice/water, stirred and filtered. The material obtained by filtering with suction is washed with water and dried at room temperature.

reactant | potassium carbonate | 0.240 mol, 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3,5-dinitrobenzoic acid | 0.114 mol, 37.5 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | isopropyl mercaptan | 0.114 mol, 11.0 ml | C(C)(C)S | C3H8S
reactant | methyl iodide | 0.12 mol, 7.5 ml | CI | CH3I
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,5-dinitro-2-isopropylthiobenzoic acid methyl ester | COC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C(C)C)=S | C11H12N2O5S
